US05763437
98% sulfuric acid (17.5 ml) was added dropwise to 2-picoline-1-oxide (5.22 g) under stirring at cooling in an ice-bath. To the mixture was added dropwise nitric acid (fuming, 15 ml) under the same condition. After completion of the additieon, the mixture was heated at 80°-90° C. for 2 hours. The reaction mixture was allowed to cool to room temperature, poured into water (100 ml) and alkalined with aN aqueous sodium hydroxide. The resultant mixture was extracted with chloroform four times. The combined extracts were dried over sodium sulfate. Removal of the solvent gave 4-nitro-2-picoline-1-oxide (6.52 g).

reactant | sulfuric acid | 17.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | 2-picoline-1-oxide | 5.22 g | [N+]=1(C(=CC=CC1)C)[O-] | C6H7NO
reactant | nitric acid | 15 ml | [N+](=O)(O)[O-] | HNO3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 100 ml | O | H2O
product | 4-nitro-2-picoline-1-oxide | 6.52 g | [N+](=O)([O-])C=1C=C([N+](=CC1)[O-])C | C6H6N2O3
